US04906633
A mixture of 2.0 g (10.0 mmol) of methyl 3,5-diamino-6-chloropyrazine-2-carboxylate and 13.5 g (22.6 mmol) of ethylene diamine was allowed to stand for 3 days at ambient temperature. The excess amine was evaporated and the residue was crystallized from ethanol. There was obtained 1.38 g (5.9 mmol, 59%) of 3,5-diamino-6-chloro-N-(2-aminoethyl)pyrazine-2-carboxamide: mp 173°-174° C.

reactant | methyl 3,5-diamino-6-chloropyrazine-2-carboxylate | 10.0 mmol, 2.0 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)OC | C6H7ClN4O2
reactant | ethylene diamine | 22.6 mmol, 13.5 g | C(CN)N | C2H8N2
product | 3,5-diamino-6-chloro-N-(2-aminoethyl)pyrazine-2-carboxamide | 5.9 mmol, 1.38 g, 59% | NC=1C(=NC(=C(N1)N)Cl)C(=O)NCCN | C7H11ClN6O
